US03936308
1-Ethyl-2-methyl-5,6-diphenyl-1H-imidazo[4,5-b]pyrazine ##SPC32##
2-Chloro-3-ethylamino-5,6-diphenylpyrazine, (3.10 g, 0.01 moles) is dissolved in benzene (50 ml) and then triethylamine (1.29 g, 0.013 moles) and acetyl chloride (1.00 g, 0.013 moles) are added. The solution is refluxed 41/2 hours, cooled to 15°C and filtered. The filtrate is diluted with ethanol (3ml), warmed briefly at 50°C and then all volatile materials evaporated. The resultant brown oil is treated with liquid ammonia (17 g) in ethanol (60 ml) in a bomb at 165°C for 12 hours. The solution is diluted with water (200 ml), cooled and the yellow precipitate filtered off. The solid is triturated with boiling 50% aqueous methanol, filtered, and the filtrate chilled. The product is collected by filtration. Yield 0.45 g (14%). It is recrystallized from benzene-heptane, m.p. 178.5°-180°C.

reactant | 2-Chloro-3-ethylamino-5,6-diphenylpyrazine | 0.01 moles, 3.10 g | ClC1=NC(=C(N=C1NCC)C1=CC=CC=C1)C1=CC=CC=C1 | C18H16ClN3
reactant | triethylamine | 0.013 moles, 1.29 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.013 moles, 1.00 g | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-Ethyl-2-methyl-5,6-diphenyl-1H-imidazo[4,5-b]pyrazine | C(C)N1C(=NC=2C1=NC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)C | C20H18N4
